US04549988
8-Chloro-5-(N-methyl-1-amino-2-propyn-3-yl)-1-phenyl-3H-2-benzazepine dihyrochloride
A mixture of 3.7 g (10 mmole) of 8-chloro-5-bromo-1-phenyl-3H-2-benzazepine hydrochloride, 0.4 g (0.6 mmole) of dichlorobis(triphenylphosphine)palladium (II), 0.2 g (1 mmole) cuprous iodide and 2 ml (excess) of 97% N-methylpropargylamine in 50 ml of 98% diethylamine and 100 ml of methylene chloride was stirred at room temperature under nitrogen for 24 hr. The reaction was concentrated at reduced pressure to dryness. The residue was dissolved in methylene chloride and extracted with dilute ice cold hydrochloric acid. The acid extract was made alkaline with dilute ice cold sodium carbonate and extracted with ether. The ether solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. Purification of the residue by column chromatography (silica gel, 20 g; eluent, 20% ether in methylene chloride followed by 10% methanol in methylene chloride) gave from the latter eluent an amber oil. The oil was dissolved in an excess of methanolic hydrogen chloride and concentrated at reduced pressure to dryness. The residue crystallized from isopropanol to give end product which when recrystallized from isopropanol gave tan crystals, mp 169°-175° C. dec.

reactant | 8-chloro-5-bromo-1-phenyl-3H-2-benzazepine hydrochloride | 10 mmole, 3.7 g | Cl.ClC1=CC2=C(C(=CCN=C2C2=CC=CC=C2)Br)C=C1
reactant | N-methylpropargylamine | 2 ml | CNCC#C | C4H7N
reactant | hydrogen chloride | Cl | ClH
solvent | diethylamine | 50 ml | C(C)NCC | C4H11N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.6 mmole, 0.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-Chloro-5-(N-methyl-1-amino-2-propyn-3-yl)-1-phenyl-3H-2-benzazepine dihyrochloride | Cl.Cl.ClC1=CC2=C(C(=CCN=C2C2=CC=CC=C2)C#CCNC)C=C1 | InChI=1S/C20H17ClN2.2ClH/c1-22-12-5-8-15-11-13-23-20(16-6-3-2-4-7-16)19-14-17(21)9-10-18(15)19;;/h2-4,6-7,9-11,14,22H,12-13H2,1H3;2*1H
